Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, distension
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy
Colonoscopy

 
History of Present Illness:
Mr. ___ is a ___ y/o M with past medical history 
significant for Anxiety, and abdominal pain. Of note he had 
recent hospitilization in early ___ for abdominal pain, was 
evaluated by GI who was consulted for concern for upper GI 
bleed, an EGD was performed which showed gastritis and 
duodenitis with normal biopsies. It was believed at that time 
that his gastritis and duodenitis were due to heavy alcohol use. 
He was started on a PPI twice daily. He was negative for H. 
Pylori.
.
Today he is s/p EGD and colonoscopy for further evaluation of 
abdominal pain. He had an MRCP two days ago, which was 
essentially negative.  After his colonoscopy patient continued 
to have abdominal pain, gas, distension and was admitted for 
further monitoring overnight. 
.
Per history patient said that he has been daily with mainly 
epigastric pain, has not had any N/V recently. Pain is 
aggravated by eating, and alcohol intake (patient still reports 
drinking ___ drinks/week). Denies any recent Fevers/Chills, 
hematochezia, melena. He reports on average ___ BM's per day, 
with diarrhea on and off. He was not taking a PPI prior to 
admission due to insurance issues with "prior authorization".
.
On the floor patient's vitals were 97.8, 148/81, 62, 20, 97%RA. 
After his colonoscopy/EGD today patient currently reports that 
he has ___ pain, mainly in the LLQ, RLQ, and constant, 
non-radiating. He reports passing gas, has not had BM yet. Has 
taken clear liquids, does not currently report nausea (had 1 
episode of emesis after his procedure today).  
.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. No recent change in bowel or bladder 
habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
-Anxiety, sees a psychiatrist, Dr. ___, Duodenitis
-s/p bilateral inguinal hernia repair as child, denies other 
surgeries
 
Social History:
___
Family History:
-Mother with history of heart attack (believed to be in her 
___, patient denies other medical issues. 
-Father healthy.
-Uncle with ___ Lymphoma
-Denies family history of GI issues
 
Physical Exam:
Vitals: 97.8, 148/81, 62, 20, 97%RA 
General: Alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, obese, ttp in RLQ, LLQ, no rebound or gaurding, 
no organomegaly   
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
Labs during Observation:
___ 06:05AM BLOOD WBC-6.4 RBC-4.68 Hgb-13.6* Hct-39.4* 
MCV-84 MCH-29.1 MCHC-34.5 RDW-13.5 Plt ___
___ 06:05AM BLOOD Glucose-87 UreaN-15 Creat-1.1 Na-136 
K-4.2 Cl-103 HCO3-24 AnGap-13
___ 06:05AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.6
.
___ EGD:
Impression: Grade 1 esophagitis in the lower third of the 
esophagus
Erythema and congestion in the antrum compatible with gastritis 
(biopsy)
Granularity, erythema, congestion and nodularity in the duodenal 
bulb compatible with duodenitis (biopsy). Otherwise normal EGD 
to third part of the duodenum.
.
___ Colonoscopy:
Impression: Polyps in the rectum and transverse colon 
(polypectomy, polypectomy, endoclip, epinephrine injection). 
Diverticulosis of the sigmoid colon. Otherwise normal 
colonoscopy to cecum.
 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with past medical history 
significant for anxiety with noted gastritis, duodenitis per 
previous EGD in ___, who presented s/p Colonoscopy/EGD with 
abdominal pain, distension and kept overnight for observation.
.  
#Abdominal Pain/Gastritis/Duodenitis: Patient s/p 
EGD/Colonoscopy. Likely source of abdominal pain is from 
distension, gas from colonoscopy. Patient discussed with GI, low 
risk for perforation. Patient remained afebrile throughout stay. 
He did not exhibit any signs of nausea/vomiting. He had a 
previous MRCP on ___ without evidence of pancreatitis, or 
cholestasis. Patient was started on pantoprazole BID which he 
will continue as an outpatient. He was given simethicone to help 
with his distension, and pain control with oxycodone 5mg PRN and 
tylenol. He was started on a regular diet and tolerated this 
well prior to discharge. Patient has scheduled follow-up with 
his GI doctor within the next month. 
.
#Anxiety: Patient followed by psychiatrist as outpatient. He was 
continued on his lorazepam and zoloft home dose.
.
#Insomnia: Patient continued on home zolpidem.
.
TRANSITIONAL ISSUES:
1) Patient to follow up with his GI doctor in ___ month
2) Patient has scheduled follow up with PCP

 
___ on ___:
Sertraline 150 mg PO daily
Lorazepam 1 mg PO BID prn anxiety
Zolpidem 10 mg PO QHS prn insomnia
 
Discharge Medications:
1. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.  
2. zolpidem 10 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
3. lorazepam 1 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for anxiety.  
4. sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
5. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain for 5 doses.
Disp:*5 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Gastritis, Duodenitis
Secondary Diagnosis: Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
to the hospital for observation after your EGD and Colononscopy 
for abdominal pain. Your pain improved overnight with pain 
medications, and with a medication to control gas. 

MEDICATION CHANGES:
START Pantoprazole 40mg tab two times a day (Dr. ___ has 
requested prior authorization for this, if you can not obtain 
then please take omeprazole instead)
START Oxycodone 5mg as needed for abdominal pain every 4 to 6 
hours. Do not operate machinery, or drive while taking this 
medication. Can cause drowsiness.
Avoid taking aspirin,ibuprofen, motrin, or other 
anti-inflammatory medications known as (NSAIDS)

Recommendations to help with heartburn: Avoid chocolate, 
peppermint, alcohol, caffeine, onions, aspirin. Elevate the head 
of the bed 3 inches. Go to bed with an empty stomach.

Please follow-up with your PCP and GI as below.
 
Followup Instructions:
___